US07569592B2
2-(1H-Pyrazol-3-yl)pyridine (435 mg, 3 mmol), 3-fluoro-1-chlorobenzene (0.32 mL, 3 mmol) and K2CO3 (830 mg, 6 mmol) were dissolved in DMF (10 mL) under Ar (g) and heated at 145° C. for 18 h. After cooling to ambient temperature, H2O (40 mL) and EtOAc (40 mL) were added and the reaction mixture shaken, the EtOAc layer was separated and the aqueous layer shaken with EtOAc (2×30 mL). The combined organic layers were washed with brine (3×40 mL), dried over Na2SO4 and concentrated onto silica gel. The crude material was purified by liquid chromatography on silica gel, eluting with EtOAc:hexane (1:1) to afford 2-[1-(3-chlorophenyl)-1H-pyrazol-3-yl]pyridine as as solid. 1H NMR (CD3Cl, 300 MHz) δ 8.68-8.69 (1H, m), 8.13-8.16 (1H, m), 8.01 (1H, m), 7.88 (11H, m), 7.79 (1H, ddd), 7.66-7.68 (1H, m), 7.42 (1H, dd), 7.26-7.31 (2H, m), 7.16 (1H, d). MS (ESI) 256 (M+H)+

reactant | 2-(1H-Pyrazol-3-yl)pyridine | 3 mmol, 435 mg | N1N=C(C=C1)C1=NC=CC=C1 | C8H7N3
reactant | 3-fluoro-1-chlorobenzene | 3 mmol, 0.32 mL | FC=1C=C(C=CC1)Cl | C6H4ClF
reactant | K2CO3 | 6 mmol, 830 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 40 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 2-[1-(3-chlorophenyl)-1H-pyrazol-3-yl]pyridine | ClC=1C=C(C=CC1)N1N=C(C=C1)C1=NC=CC=C1 | C14H10ClN3
